US06486333B1
Synthesis of 3-methyl-5-phenylpentyl chloroacetate
A 127.05 g (1.125 mol) of chloroacetyl chloride and 200 ml of dichloromethane were put into a flask and, while stirring under ice-cooling, a mixture consisting of 199.6 g (1.12 mol) of 3-methyl-5-phenylpentanol and 88.59 g (1.12 mol) of pyridine was added dropwise thereto spending 2 hours (reaction temperature 5 to 15° C.). After completion of the dropwise addition, this was further stirred at room temperature for 3 hours, and white crystals of the thus precipitated pyridine hydrochloride were removed by filtration. The reaction mixture was washed with water (3×300 ml), the organic phase was dehydrated with anhydrous magnesium sulfate and then the solvent was evaporated under a reduced pressure. By distilling the remained yellow oil under a reduced pressure, the title compound was obtained as a light yellow transparent oil. Yield 242.25 g (0.849 mol; yield 84.9%, boiling point 148-151° C./0.2 kPa).

reactant | chloroacetyl chloride | 1.125 mol, 127.05 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 3-methyl-5-phenylpentanol | 1.12 mol, 199.6 g | CC(CCO)CCC1=CC=CC=C1 | C12H18O
reactant | pyridine | 1.12 mol, 88.59 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-methyl-5-phenylpentyl chloroacetate | yield 84.9% | ClCC(=O)OCCC(CCC1=CC=CC=C1)C | C14H19ClO2
